US08039469B2
Preparation of 1-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-3-pyridin-3-ylurea
Starting from 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline (0.08 g 0.23 mmoles) and 3-pyridyl isocyanate (30 mg, 0.25 mmoles) the title compound was isolated as a white solid. The product was purified by Silica gel column chromatography by eluting it with 10% MeOH: ethyl acetate. Yield; 60 mg (56%); (M+H)=463.5.

reactant | 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline | 0.23 mmoles, 0.08 g | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(N)C=C1 | C17H22N6O2
reactant | 3-pyridyl isocyanate | 0.25 mmoles, 30 mg | N1=CC(=CC=C1)N=C=O | C6H4N2O
product | 1-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-3-pyridin-3-ylurea | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC=1C=NC=CC1 | C23H26N8O3
